US06469042B1
Preparation of 2-Bromo-4-chloro(2-fluoroethoxy)benzene
A stirred suspension of 2-bromo-4-chlorophenol (2.07 g, 10 mmol), 1-bromo-2-fluoroethane (1.52 g, 12 mmol) and potassium carbonate (1.65 g, 12 mmol) in 2-butanone (10 mL) was heated at reflux temperature for 16 hours. The suspension was allowed to cool and then filtered. The filtrate was concentrated in vacuo and then distilled in vacuo to afford the titled compound as a colorless oil (2.25 g, 89%): bp 80-82° C. @ 0.1 torr

reactant | 2-bromo-4-chlorophenol | 10 mmol, 2.07 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | 1-bromo-2-fluoroethane | 12 mmol, 1.52 g | BrCCF | C2H4BrF
reactant | potassium carbonate | 12 mmol, 1.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 10 mL | CC(CC)=O | C4H8O
product | 2-Bromo-4-chloro(2-fluoroethoxy)benzene | 2.25 g, 89% | BrC1=C(C=CC(=C1)Cl)OCCF | C8H7BrClFO
